US04824846
35 mmol of 1-(4-hydroxyphenyl)piperazine dihydrobromide, 35 mmol of 1-chloro-4-(4-tolyl)phthalazine and 52.5 mmol of K2CO3 in 110 ml of absolute N,N-dimethylformamide (DMF) were reacted by the same procedure as described in Example 18. The subsequent stirring time was 2 hours at 90° C. and 7 hours at 105° C. The DMF was then removed by distillation in vacuo. The residue remaining was taken up in CH2Cl2 /water. After thorough mixing, the phases were separated, the aqueous solution was extracted a further three time with CH2Cl2, and the CH2Cl2 extracts were combined and, after drying using MgSO4, were evaporated in vacuo. The residue was mixed with 70 ml of CH2Cl2, and the substance produced in crystalline form during this procedure was filtered off under suction. This solid (1.7 g) was 1,2-dihydro-4-(4-tolyl)phthalazin-1-one, a byproduct. The filtrate was concentrated to a volume of 40-50 ml, whereupon further substance crystallized out, which was filtered off under suction. This component (4.65 g) was boiled briefly with 15 ml of methanol, and, after cooling (<10° C.), filtered off under suction and dried. At this point, 2.72 g of pure 1-(4-hydroxyphenyl)-4-[4-(4-tolyl)phthalazin-1-yl]piperazine, melting point 265°-66° C., were obtained,

reactant | 1-(4-hydroxyphenyl)piperazine dihydrobromide | 35 mmol | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | 1-chloro-4-(4-tolyl)phthalazine | 35 mmol | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)C | C15H11ClN2
reactant | K2CO3 | 52.5 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 1-(4-hydroxyphenyl)-4-[4-(4-tolyl)phthalazin-1-yl]piperazine | 2.72 g | OC1=CC=C(C=C1)N1CCN(CC1)C1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)C | C25H24N4O
